US04639453
20.0 g (0.104 mol) of 4-cyclohexylresorcinol are dissolved in 40 ml of ten percent strength sodium hydroxide solution and are hydrogenated in the presence of 5 g of Raney nickel in an autoclave at 90° under 20 bar for 5 hours. The reaction mixture is rinsed out of the autoclave with alcohol. After removal of the catalyst, 100 ml of 90 percent strength acetic acid are slowly added to the solution. After addition of water, the reaction product crystallises out. It is dried in vacuo over NaOH. 12.9 g of 1,3-dioxo-6-cyclohexyl-cyclohexane of melting point 137°-140° C. are obtained. After recrystallisation from ethyl acetate, the product has a melting point of 142°-144° C. (literature). Yield: 11.1 g (=55%).

reactant | 4-cyclohexylresorcinol | 0.104 mol, 20.0 g | C1(CCCCC1)C1=C(C=C(O)C=C1)O | C12H16O2
solvent | sodium hydroxide | [OH-].[Na+]
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 1,3-dioxo-6-cyclohexyl-cyclohexane | 12.9 g | O=C1CC(CCC1C1CCCCC1)=O | C12H18O2
